### PR TITLE
[Merged by Bors] - feat: simple lemmas about fractional ideals

### PR DESCRIPTION
**Pull request by js2357**
Prove five lemmas about fractional ideals (zero_mem, fg_of_isNoetherianRing, den_mem_inv, num_le_mul_inv, bot_lt_mul_inv). 

This is part 1/4 of a proof of `isDedekindDomain_iff_isDedekindDomainDvr`. 
Part 2: #14216
Part 3: #14237
Part 4: #14242

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by grunweg** [comment]
Thanks for your contribution! I presume you're looking for review on your code - I have labelled your pull request `awaiting-review` to indicate this. You can read more about this label in the [contribution guide](https://leanprover-community.github.io/contribute/index.html#lifecycle-of-a-pr).

**Review by erdOne — APPROVED** [review]
Thanks!
maintainer merge

File: Mathlib/RingTheory/DedekindDomain/Ideal.lean [hunk 1]
```diff
@@ -227,6 +227,27 @@ theorem isPrincipal_inv (I : FractionalIdeal R₁⁰ K) [Submodule.IsPrincipal (
...
+variable {K}
+
+lemma den_mem_inv {I : FractionalIdeal R₁⁰ K} (hI : I ≠ ⊥) :
+    (algebraMap R₁ K) (I.den : R₁) ∈ I⁻¹ := by
+  rw [mem_inv_iff hI]
+  intro i hi
+  rw [← Algebra.smul_def (I.den : R₁) i, ← mem_coe, coe_one]
+  suffices Submodule.map (Algebra.linearMap R₁ K) I.num ≤ 1 from
+    this <| (den_mul_self_eq_num I).symm ▸ smul_mem_pointwise_smul i I.den I.coeToSubmodule hi
+  convert map_mono (show I.num ≤ 1 by simp only [Ideal.one_eq_top, le_top, bot_eq_zero])
```
Comment (kbuzzard) [inline Mathlib/RingTheory/DedekindDomain/Ideal.lean:239]:
```suggestion
  apply le_trans <| map_mono (show I.num ≤ 1 by simp only [Ideal.one_eq_top, le_top, bot_eq_zero])
```
I'm always a bit nervous of `convert` followed by an argument with a little content, because `convert` is so dependent on definitional equality. My suggestion makes this proof a little more robust.

**Review by kbuzzard — APPROVED** [review]
Thanks a lot for your contribution and I look forward to the future PRs! I've made a suggestion to make one of your proofs perhaps easier to maintain.

bors d+
